US07709471B2
4-amino-N-(1-methyl-4-piperidyl)-3-(trifluoromethoxy)benzamide
To a solution of 4-amino-3-(trifluoromethoxy)benzoic acid (Maybridge; 1.05 g, 4.75 mmol) in DMF (20 ml) was added 4-amino-1-methylpiperidine (Fluorochem; 604 mg, 5.29 mmol) followed by DIPEA (1.6 ml, 9.19 mmol) and HATU (2.06 g, 5.42 mmol). The reaction mixture was stirred at ambient temperature O/N. The reaction mixture was evaporated to dryness and the residue partitioned between DCM (75 mL) and saturated aqueous sodium bicarbonate solution (75 mL). The aqueous phase was re-extraced with DCM (50 ml) and the combined organic phases washed with brine, dried over magnesium sulphate, filtered and evaporated to give the title compound as an amber gum (1.17 g, 78%)

reactant | 4-amino-3-(trifluoromethoxy)benzoic acid | 4.75 mmol, 1.05 g | NC1=C(C=C(C(=O)O)C=C1)OC(F)(F)F | C8H6F3NO3
reactant | 4-amino-1-methylpiperidine | 5.29 mmol, 604 mg | NC1CCN(CC1)C | C6H14N2
reactant | DIPEA | 9.19 mmol, 1.6 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 5.42 mmol, 2.06 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-amino-N-(1-methyl-4-piperidyl)-3-(trifluoromethoxy)benzamide | 1.17 g, 78% | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC(F)(F)F | C14H18F3N3O2
